US06878714B2
2-Chloro-4-pyrimidinecarbonitrile (14.1 g, 101 mmol, prepared according to the procedure of Daves et. al J. Het. Chem. 1964, 1, 130-132) in 100 ml THF was cooled to 0° C. Reaction progress was monitored as aliquots of methylamine solution (in THF, 2.0 M, Aldrich) were added dropwise over the course of 1 h (58 ml+15 ml+15 ml). The mixture was stirred overnight. Additional methylamine solution (15 ml) was added very slowly, and the reaction was stirred 10 min. After concentration, the residue was extracted with EtOAc (400 ml) and saturated aqueous NaHCO3 (15 ml), and the organic layer was washed with 100 ml brine. The combined aqueous layers were extracted with EtOAc again (200 ml), and this organic layer was washed with brine. The combined organic layers were dried over Na2SO4, filtered, and concentrated. The orange solid was packed into a filtration apparatus, and submerged in just enough MeOH to cover the material (15 ml). Orange liquid was allowed to drain by gravity, then under high vacuum. The solid was washed in the same manner with t-BuOMe (15 ml). 2-Methylamino-pyrimidine-4-carbonitrile was obtained as peach-colored “fly-away” crystals. MS: 135.0 (M+1); Calc'd. for C6H6N4—134.14.

reactant | 2-Chloro-4-pyrimidinecarbonitrile | ClC1=NC=CC(=N1)C#N | C5H2ClN3
reactant | methylamine | 2.0 M | CN | CH5N
reactant | methylamine | 15 ml | CN | CH5N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-Methylamino-pyrimidine-4-carbonitrile | CNC1=NC=CC(=N1)C#N | C6H6N4
